US05824691
To a solution of guanidine hydrochloride (2.7 g) in methanol (12 ml) was added sodium methoxide (5.13 g, 28% in methanol) and the mixture was stirred for 15 minutes under nitrogen. To this mixture was added a solution of methyl 3-phenylbenzoate (1.20 g) in methanol (2 ml) and the mixture was stirred for 6 hours. The reaction mixture was poured into a mixture of ethyl acetate (100 ml) and water (50 ml). The organic layer was successively washed with 5N-sodium hydroxide aqueous solution and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on alumina (100 ml) and eluted with chloroform-methanol (10:1). The fractions containing the desired product were collected and evaporated in vacuo. The residue was crystallized from 4N-hydrogen chloride-ethyl acetate. The crystalline was recrystallized from ethanol to afford 2-[3-phenylbenzoyl]guanidine hydrochloride (274.0 mg).

reactant | guanidine hydrochloride | 2.7 g | Cl.NC(=N)N
reactant | sodium methoxide | 5.13 g | C[O-].[Na+]
reactant | methyl 3-phenylbenzoate | 1.20 g | C1(=CC=CC=C1)C=1C=C(C(=O)OC)C=CC1 | C14H12O2
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 12 ml | CO | CH4O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2-[3-phenylbenzoyl]guanidine hydrochloride | 274.0 mg | Cl.C1(=CC=CC=C1)C=1C=C(C(=O)N=C(N)N)C=CC1 | InChI=1S/C14H13N3O.ClH/c15-14(16)17-13(18)12-8-4-7-11(9-12)10-5-2-1-3-6-10;/h1-9H,(H4,15,16,17,18);1H
